US04291039
Methyl 1,2,3,4-Tetrahydro-β-Carboline-4-Carboxylate Hydrochloride (TR-8026)
1,2,3,4-Tetrahydro-β-carboline-4-carboxylic acid hydrochloride (3 g, 0.012 mole) (TR-8025) prepared in Example 3 was mixed with 50 ml of methanol. It was cooled at 0° C. Then thionylchloride (2 ml, 0.028 mole) was added dropwise. The mixture was stirred at room temperature for 24 hours. The solvent was removed in vacuo. The residue was partitioned in ethyl acetate/6% K2CO3 solution. The organic phase was dried over MgSO4, filtered and treated with 4 NHCl in dioxane to pH=5. A white solid was collected. Yield: 2 g (62%) mp 246°-247° C.

reactant | 1,2,3,4-Tetrahydro-β-carboline-4-carboxylic acid hydrochloride | 0.012 mole, 3 g | Cl.C1NCC(C=2C3=CC=CC=C3NC12)C(=O)O
reactant | thionylchloride | 0.028 mole, 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | Methyl 1,2,3,4-Tetrahydro-β-Carboline-4-Carboxylate Hydrochloride | Cl.C1NCC(C=2C3=CC=CC=C3NC12)C(=O)OC | InChI=1S/C13H14N2O2.ClH/c1-17-13(16)9-6-14-7-11-12(9)8-4-2-3-5-10(8)15-11;/h2-5,9,14-15H,6-7H2,1H3;1H
